US08193236B2
(1-Acetyl-5-bromomethyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester
A mixture of (1-acetyl-5-methyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester (3.25 g, 9.94 mmol), AIBN (408 mg, 2.49 mmol) and N-bromosuccinimide (1.77 g, 9.94 mmol) in tetrachloromethane (50 mL) is heated to 80° C. for 2 h. After cooling to room temperature, the reaction mixture is filtered and the filtrate concentrated in vacuo. The crude product is purified by flash column chromatography (silica gel, cyclohexane/EtOAc 9:1) to afford the title compound as a yellow solid (2.44 g, 6.02 mmol, 61%). 1H NMR (400 MHz, CDCl3, 298 K): δ=7.88 (s, J=8.8 Hz, 1H), 7.64 (s, 1H), 7.50 (d, J=8.8 Hz, 1H), 4.62 (s, 2H), 4.18 (q, J=7.1 Hz, 2H), 3.93 (s, 2H), 2.76 (s, 3H), 1.25 (t, J=7.1 Hz, 3H). MS (ES+): 4.23 (M(C16H1579BrF3NO3)+H2O)+.

reactant | (1-acetyl-5-methyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester | 9.94 mmol, 3.25 g | C(C)OC(CC1=C(N(C2=CC=C(C=C12)C)C(C)=O)C(F)(F)F)=O | C16H16F3NO3
reactant | AIBN | 2.49 mmol, 408 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | N-bromosuccinimide | 9.94 mmol, 1.77 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrachloromethane | 50 mL | ClC(Cl)(Cl)Cl | CCl4
product | (1-Acetyl-5-bromomethyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester | 6.02 mmol, 2.44 g, 61% | C(C)OC(CC1=C(N(C2=CC=C(C=C12)CBr)C(C)=O)C(F)(F)F)=O | C16H15BrF3NO3
